US06960664B2
A solution of tert-butyl carbazate (50.0 g, 0.38 mole) and acetaldehyde (17.5 g, 0.4 mole) in ethanol (250 mL) was refluxed for 72 h. The solution was concentrated in vacuo and dissolved in ethyl acetate. The solution was washed with water, dried (anhydrous sodium sulfate) and concentrated to afford N′-ethylidene-hydrazinecarboxylic acid tert-butyl ester (56 g) as a light yellow oil that solidified on standing. MS (ESI+) for C7H14N2O2 m/z 159.0 (M+H)+.

reactant | tert-butyl carbazate | 0.38 mole, 50.0 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | acetaldehyde | 0.4 mole, 17.5 g | C(C)=O | C2H4O
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | N′-ethylidene-hydrazinecarboxylic acid tert-butyl ester | 56 g | C(C)(C)(C)OC(=O)NN=CC | C7H14N2O2
